* C:\Users\frede\OneDrive\Bureau\UdeS_S4_APP3\nand_test.asc
V1 vdd 0 {vv}
V2 b 0 PULSE(0 {vv} 1000p 1p 1p 2000p 4000p 5)
XX9 a out vdd 0 b nand params: NAND ll=180n wn={nnw} wp={nnw*mp}
V3 a 0 PULSE(0 {vv} 2000p 1p 1p 2000p 4000p 5)
C1 out 0 1f

* block symbol definitions
.subckt nand in1 Q vdd vss in2
M2 N001 in2 vss NC_01 NMOS l={ll} w=360n ad={450n*{wn}} as={450n*{wn}} pd={900n*{wn}} ps={1080n*{wn}}
M3 Q in1 N001 NC_02 NMOS l={ll} w=360n ad={450n*{wn}} as={450n*{wn}} pd={900n*{wn}} ps={1080n*{wn}}
M4 vdd in2 Q NC_03 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M5 vdd in1 Q NC_04 PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
.lib BU_180nm.lib
.param ll=180n wn=180n wp=450n
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\frede\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8 nnw=180n mp=1
.lib BU_180nm.lib
.tran 0 10000p 0 10p
.meas tran t1 find time when v(out)=vv*0.1 rise 1
.meas tran t2 find time when v(out)=vv*0.9 rise 1
.meas tran t3 find time when v(out)=vv*0.1 fall 1
.meas tran t4 find time when v(out)=vv*0.9 fall 1
.meas tran transition_up param abs(t2-t1)
.meas tran transition_down param abs(t4-t3)
.meas tran ratio param upslope/downslope
.backanno
.end
