* Z:\home\raesangur\github\UdeS_S4_APP3\xor_test.asc
V1 vdd 0 {vv}
V2 b 0 PULSE(0 {vv} 1000p 1p 1p 2000p 4000p 5)
XX2 a out vdd 0 b xor params: XOR ll=180n wn={nnw} wp={nnw*mp}
V3 a 0 PULSE(0 {vv} 2000p 1p 1p 2000p 4000p 5)
C1 out 0 1f

* block symbol definitions
.subckt xor in1 Q vdd vss in2
M1 vdd in1 N004 N002 PMOS l={ll} w={wp * 2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M2 N007 in1_NOT vss N008 NMOS l={ll} w={wn * 2} ad={450n*{wn}} as={450n*{wn}} pd={900n*{wn}} ps={1080n*{wn}}
M3 N004 in2_NOT Q N004 PMOS l={ll} w={wp * 2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M4 vdd in2 N003 N001 PMOS l={ll} w={wp * 2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M5 Q in1 N007 N005 NMOS l={ll} w={wn * 2} ad={450n*{wn}} as={450n*{wn}} pd={900n*{wn}} ps={1080n*{wn}}
M6 Q in2_NOT N007 N006 NMOS l={ll} w={wn * 2} ad={450n*{wn}} as={450n*{wn}} pd={900n*{wn}} ps={1080n*{wn}}
M10 N003 in1_NOT Q N003 PMOS l={ll} w={wp * 2} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
M11 N007 in2 vss N009 NMOS l={ll} w={wn * 2} ad={450n*{wn}} as={450n*{wn}} pd={900n*{wn}} ps={1080n*{wn}}
XX1 in1 in1_NOT vdd vss inv
XX2 in2 in2_NOT vdd vss inv
.lib BU_180nm.lib
.param ll=180n wn=180n wp=475n
.ends xor

.subckt inv In _Q vdd vss
M1 _Q In vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M2 vdd In _Q vdd PMOS l={ll} w={wp} ad={450n*{wp}} as={450n*{wp}} pd={900n+{wp}} ps={1080n+{wp}}
.lib BU_180nm.lib
.param ll=180n wn=180n wp=475n
.ends inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\raesangur\My Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8 nnw=180n mp=2.12
.tran 0 10000p 0 10p
.lib BU_180nm.lib
.meas tran t1 find time when v(out)=vv*0.1 rise 1
.meas tran t2 find time when v(out)=vv*0.9 rise 1
.meas tran t3 find time when v(out)=vv*0.1 fall 1
.meas tran t4 find time when v(out)=vv*0.9 fall 1
.meas tran transition_up param abs(t2-t1)
.meas tran transition_down param abs(t4-t3)
.meas tran ratio param upslope/downslope
.backanno
.end
